US07338960B2
1-(6-Bromo-2-pyridinyl)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethanol
A solution of nBuLi (7.90 mL of a 1.6M solution in hexanes, 12.64 mmol) in THF (7.6 mL) was cooled to −78° C. (dry-ice/acetone bath) under nitrogen and then treated with a solution of 2,6-dibromopyridine (3.00 g, 12.66 mmol) in THF (17.8 mL) drop-wise over 30 min. The resulting green solution was stirred at −78° C. for 20 min and then treated with {[(1,1-dimethylethyl)(dimethyl)silyl]oxy}acetaldehyde (3.00 mL, 15.75 mmol) over 1 min to give a deep purple/brown coloured solution which was stirred at this temperature for 15 min. The reaction was then quenched by the addition of a mixture of MeOH (12.5 mL) and AcOH (0.8 mL, 13.90 mmol) in one portion and the resulting clear, pale yellow solution allowed to warm slowly to ambient temperature over 1.25 h. The mixture was then partitioned between EtOAc (100 mL) and saturated aqueous NH4Cl (100 mL), and the layers separated. The aqueous was re-extracted with EtOAc (100 mL) and the combined organic layer washed with brine (200 mL), dried (MgSO4), filtered and reduced to give the title compound as a clear, pale yellow oil which was used directly without further purification (4.61 g).

reactant | nBuLi | [Li]CCCC
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | 2,6-dibromopyridine | 12.66 mmol, 3.00 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | {[(1,1-dimethylethyl)(dimethyl)silyl]oxy}acetaldehyde | 15.75 mmol, 3.00 mL | CC(C)(C)[Si](OCC=O)(C)C | C8H18O2Si
reactant | AcOH | 13.90 mmol, 0.8 mL | CC(=O)O | C2H4O2
solvent | THF | 7.6 mL | C1CCOC1 | C4H8O
solvent | THF | 17.8 mL | C1CCOC1 | C4H8O
solvent | MeOH | 12.5 mL | CO | CH4O
product | 1-(6-Bromo-2-pyridinyl)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethanol | BrC1=CC=CC(=N1)C(CO[Si](C)(C)C(C)(C)C)O | C13H22BrNO2Si
